US07696223B2
b) [(4-Ethynyl-7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid
A mixture of 7-hydroxy-2-phenyl-4-trimethylsilanylethynyl-thiazolo[4,5-c]pyridine-6 carboxylic acid ethyl ester (113 mg, 0.28 mmole) and glycine (750 mg, 9.99 mmole) in 0.5 M sodium methoxide/methanol (20 ml) was refluxed for 3 days before it was cooled to room temperature and concentrated in vacuo. The residue was dissolved in water (30 ml) and extracted with dichloromethane (2×40 ml). The remaining aqueous layer was acidified to pH=2 with 1N HCl. The suspension was extracted with ethyl acetate (2×40 ml), washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give the title compound as a yellow solid (96 mg). MS: (+) m/z 354.20 (M+1), (−) m/z 352.16 (M−1).

reactant | 7-hydroxy-2-phenyl-4-trimethylsilanylethynyl-thiazolo[4,5-c]pyridine-6 carboxylic acid ethyl ester | 0.28 mmole, 113 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)C#C[Si](C)(C)C)N=C(S2)C2=CC=CC=C2)O | C20H20N2O3SSi
reactant | glycine | 9.99 mmole, 750 mg | NCC(=O)O | C2H5NO2
solvent | sodium methoxide methanol | 0.5 M, 20 ml | C[O-].[Na+].CO
product | [(4-Ethynyl-7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid | 96 mg | C(#C)C1=NC(=C(C2=C1N=C(S2)C2=CC=CC=C2)O)C(=O)NCC(=O)O | C17H11N3O4S
